US07432284B2
A mixture of 10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone (31 mg, 0.109 mmol) and NaHCO3 (46 mg, 0.545 mmol) in CCl4 (0.25 mL) was stirred at room temperature while Br2 (0.0056 mL, 0.109 mmol) was added by syringe. A gummy precipitate formed which slowly dissolved. After stirring at room temperature for 15 minutes, the mixture was partitioned between EtOAc (4 mL) and aqueous Na2SO3 (4 mL). The organic phase was washed with brine, dried over MgSO4, filtered, and evaporated under vacuum to an oil. The crude product was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 5% EtOAc in CH2Cl2. The UV visible product band was eluted with EtOAc and the eluant was evaporated under vacuum to provide 4-bromo-10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone as an oil.

reactant | 10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone | 0.109 mmol, 31 mg | C(CCC)C12CCC3=CC(=CC=C3C2=CC(CC1)=O)OC | C19H24O2
reactant | NaHCO3 | 0.545 mmol, 46 mg | C(=O)(O)[O-].[Na+]
reactant | Br2 | 0.109 mmol, 0.0056 mL | BrBr | Br2
solvent | CCl4 | 0.25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone | BrC=1C(CCC2(CCC3=CC(=CC=C3C12)OC)CCCC)=O | C19H23BrO2
